US07148226B2
Preparation of Compound 2-{4-[3-cyclopentyl-4-(2,2-dimethyl-4-oxo-4H-1,3-dioxin-6-yl)-3-hydroxybut-1-ynyl]-2-fluorophenyl}-2-methylpropanenitrile
To a solution of 2-(4-bromo-2-fluorophenyl)-2-methylpropanenitrile (3.0 g, 12.4 mmol) in diisopropylamine (32 mL) and DMF (16 mL) was added 6-(2-cyclopentyl-2-hydroxybut-3-ynyl)-2,2-dimethyl-4H-1,3-dioxin-4-one (3.2 g, 12.4 mmol), PdCl2(PPh3)2 (350 mg, 4 mol %), CuI (71 mg, 3 mol %). The mixture was heated to 90° C. for 30 min before it was cooled down to room temperature. The reaction was diluted with aqueous NH4Cl, extracted with EtOAc (3×50 mL). The combined organic extracts were washed with brine, dried with Na2SO4 and evaporated to dryness. The mixture was purified by flash column chromatography (10–50% EtOAc in hexanes) to give the product (4.2 g, 79% yield). 1H NMR (300 MHz, CDCl3) δ: 1.65–1.76 (m, 14 H), 1.79 (s, 6 H), 1.82–1.85 (m, 1 H), 2.24 (s, 1 H), 2.59 (s, 1 H), 2.67 (m, 2 H), 5.46 (m, 1 H), 7.11 (dd, J=12.15, 1.60 Hz, 1 H), 7.18 (dd, J=8.10, 1.70 Hz, 1 H), 7.45 (t, J=8.10 Hz, 1 H).

reactant | 2-(4-bromo-2-fluorophenyl)-2-methylpropanenitrile | 12.4 mmol, 3.0 g | BrC1=CC(=C(C=C1)C(C#N)(C)C)F | C10H9BrFN
reactant | 6-(2-cyclopentyl-2-hydroxybut-3-ynyl)-2,2-dimethyl-4H-1,3-dioxin-4-one | 12.4 mmol, 3.2 g | C1(CCCC1)C(CC1=CC(OC(O1)(C)C)=O)(C#C)O | C15H20O4
solvent | diisopropylamine | 32 mL | C(C)(C)NC(C)C | C6H15N
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
solvent | NH4Cl | [NH4+].[Cl-]
catalyst | PdCl2(PPh3)2 | 350 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 71 mg | [Cu]I
product | 2-{4-[3-cyclopentyl-4-(2,2-dimethyl-4-oxo-4H-1,3-dioxin-6-yl)-3-hydroxybut-1-ynyl]-2-fluorophenyl}-2-methylpropanenitrile | 4.2 g, 79% yield | C1(CCCC1)C(C#CC1=CC(=C(C=C1)C(C#N)(C)C)F)(CC1=CC(OC(O1)(C)C)=O)O | C25H28FNO4
